US07662402B2
1.4 g of 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile and 1.2 g of 1-iodo-4,4,4-trifluorobutane were dissolved in 5 ml of dimethyl sulfoxide, 0.83 g of potassium carbonate was added, and the mixture was stirred at room temperature for 5 hours. Thereafter, dilute hydrochloric acid was added to the reaction mixture, followed by extraction with methyl tert-butyl ether. The organic layer was washed successively with water, aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.35 g of 2-(2,2,3,3,4,4,5,5-octafluoropentyl)-2-(4,4,4-trifluorobutyl)malononitrile (hereinafter, referred to as the present compound (66)).

reactant | 2-(2,2,3,3,4,4,5,5-octafluoropentyl)malononitrile | 1.4 g | FC(CC(C#N)C#N)(C(C(C(F)F)(F)F)(F)F)F | C8H4F8N2
reactant | 1-iodo-4,4,4-trifluorobutane | 1.2 g | ICCCC(F)(F)F | C4H6F3I
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 2-(2,2,3,3,4,4,5,5-octafluoropentyl)-2-(4,4,4-trifluorobutyl)malononitrile | 0.35 g | FC(CC(C#N)(C#N)CCCC(F)(F)F)(C(C(C(F)F)(F)F)(F)F)F | C12H9F11N2
